US06518447B2
Thexyldiisobutylchlorosilane
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 35.8 g (0.2 mol) of diisobutylchlorosilane and 2.7 g (0.02 mol) of aluminum chloride and heated at 50° C. Once the internal temperature became constant, 16.8 g (0.2 mol) of 2,3-dimethyl-2-butene was added dropwise over one hour. After the completion of dropwise addition, the reaction solution was stirred for one hour at 50° C. The aluminum chloride was deactivated by adding 4.3 g (0.04 mol) of anisole. The reaction solution was distilled, collecting 32.5 g of a boiling point 83° C./133 Pa fraction.

reactant | diisobutylchlorosilane | 0.2 mol, 35.8 g | C(C(C)C)[SiH](Cl)CC(C)C | C8H19ClSi
reactant | aluminum chloride | 0.02 mol, 2.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3-dimethyl-2-butene | 0.2 mol, 16.8 g | CC(C)=C(C)C | C6H12
reactant | anisole | 0.04 mol, 4.3 g | C1(=CC=CC=C1)OC | C7H8O
product | Thexyldiisobutylchlorosilane | C(C)(C)(C(C)C)[Si](Cl)(CC(C)C)CC(C)C | C14H31ClSi
